US07842713B2
6-Isopropoxy-2-isopropyl-N-(5-methylpyridin-2-yl)benzofuran-4-carboxamide
A solution of 6-isopropoxy-N-(5-methylpyridin-2-yl)-2-(prop-1-en-2-yl)benzofuran-4-carboxamide (118 mg, 0.34 mmol) in 10 mL of MeOH was passed through H-cube (10 bar of H2, 15° C., 5% Pd/C cartridge) at a rate of 1.0 mL/min. The collected solution was subsequently concentrated to give a light yellow gum (65 mg, 54%). 1H NMR (400 MHz, CDCl3) δ 8.53 (s, 1 H) 8.31 (d, J=8.56 Hz, 1 H) 8.14 (s, 1 H) 7.60 (dd, J=8.44, 2.14 Hz, 1 H) 7.29 (d, J=2.01 Hz, 1 H) 7.16 (d, J=2.01 Hz, 1 H) 6.84 (s, 1 H) 4.56-4.63 (m, 1 H), 3.04-3.13 (m, 1 H), 2.34 (s, 3H), 1.37 (m, 12 H); LCMS for C21H24N2O3 m/z 353.20 (M+H)+.

reactant | 6-isopropoxy-N-(5-methylpyridin-2-yl)-2-(prop-1-en-2-yl)benzofuran-4-carboxamide | 0.34 mmol, 118 mg | C(C)(C)OC=1C=C2C(C=C(O2)C(=C)C)=C(C1)C(=O)NC1=NC=C(C=C1)C | C21H22N2O3
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 6-Isopropoxy-2-isopropyl-N-(5-methylpyridin-2-yl)benzofuran-4-carboxamide | 65 mg, 54% | C(C)(C)OC=1C=C2C(C=C(O2)C(C)C)=C(C1)C(=O)NC1=NC=C(C=C1)C | C21H24N2O3
